US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol (100 mg, 0.36 mmol) and 3-cyanophenylboronic acid (79 mg, 0.54 mmol) were coupled using the procedure in Example 30 to afford 2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-carbonitrile (112 mg, 80%) as a white solid: δH (360 MHz, CDCl3) 1.74 (6H, s), 2.02 (1H, s), 7.20 (1H, dd, J 7 and 7), 7.37 (1H, dd, J 9 and 9), 7.54-7.63 (3H, m), 7.70-7.73 (2H, m), 7.82 (1H, d, J 9), 7.89 (1H, s), 8.04 (1H, d, J 7); m/z (ES+) 390 (100%, [MH]+).

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | 0.36 mmol, 100 mg | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 3-cyanophenylboronic acid | 0.54 mmol, 79 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
product | 2′-fluoro-5′-[8-fluoro-7-(1-hydroxy-1-methylethyl)imidazo[1,2-α]pyridin-3-yl]biphenyl-3-carbonitrile | 112 mg, 80% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=CC(=CC=C2)C#N | C23H17F2N3O
